US07320993B1
c) 8,8-bis-(4-fluorophenyl)-octyl bromide
9.7 g (25.5 mmol) 8,8-bis-(4-fluorophenyl)-oct-7-enyl bromide are dissolved in 350 ml ethanol and added to 0.5 g palladium (5%) on activated carbon. The mixture is stirred under hydrogen atmosphere (ca. one hour) until the theoretical amount of hydrogen to be taken up is consumed. Subsequently, the mixture is filtered off from a catalyst and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with petroleum ether/acetic acid ethyl ester (80/1 to 40/1)): Yield 8.6 g (89%).

reactant | 8,8-bis-(4-fluorophenyl)-oct-7-enyl bromide | 25.5 mmol, 9.7 g | FC1=CC=C(C=C1)C(=CCCCCCCBr)C1=CC=C(C=C1)F | C20H21BrF2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 8,8-bis-(4-fluorophenyl)-octyl bromide | FC1=CC=C(C=C1)C(CCCCCCCBr)C1=CC=C(C=C1)F | C20H23BrF2
